US06660744B1
cis-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (148 mg, 0.335 mmol), 4-(anilinocarbonyl)-3-methoxyphenylboronic acid (100 mg, 0.369 mmol), palladium tetrakistriphenyphosphine (23 mg, 0.020 mmol) and sodium carbonate (85 mg, 0.845 mmol) were mixed with ethylene glycol dimethyl ether (4 mL) and water (2 mL). The reaction mixture was heated at reflux overnight. Organic solvent was removed under reduced pressure and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with water then brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichloromethane/methanol (95:5) as mobile phase to give cis-N1-Phenyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxybenzamide (125 mg, 69%). 1H NMR (CDCl3) δ 1.69 (m, 2H), 1.86 (m, 2H), 2.17 (m, 2H), 2.31 (s, 3H), 2.44 (m, 11H), 4.15 (s, 3H), 4.96 (m, 1H), 5.69 (bs, 2H), 7.14 (m, 1H), 7.37 (m, 2H), 7.45 (m, 2H), 7.68 (m, 2H), 8.41 (m, 2H), 9.77 (s, 1H). LC/MS (Micromass-Column: Pecosphere, C18, 3 um, 33×4.6 mm. Eluents: 0% B/A to 100% B/A in 4.5 min.(B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 3.5 mL/min.): MH+ =541.2, Rt=2.58 min.

reactant | cis-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.335 mmol, 148 mg | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | 4-(anilinocarbonyl)-3-methoxyphenylboronic acid | 0.369 mmol, 100 mg | N(C1=CC=CC=C1)C(=O)C1=C(C=C(C=C1)B(O)O)OC | C14H14BNO4
reactant | sodium carbonate | 0.845 mmol, 85 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
product | cis-N1-Phenyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxybenzamide | 125 mg, 69% | C1(=CC=CC=C1)NC(C1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)OC)=O | C30H36N8O2
